US04171366
13.6 g (0.2 mole) of 1H-imidazole is dissolved in 200 ml of absolute tetrahydrofuran, and to the solution is added portionwise with stirring, in a nitrogen atmosphere, 2.3 g (0.1 gram atom) of sodium, with slight self-heating occurring accompanied by the evolution of hydrogen. The reaction mixture is heated at 45°-50° until the sodium has been completely absorbed. There is subsequently added dropwise at the same temperature, within 60 minutes, a solution of 27.7 g (0.1 mole) of 4-(bromomethyl)-naphtho[1,2-b]thiophene in 50 ml of tetrahydrofuran, and stirring is continued at 45°-50° for a further two hours. After cooling, the sodium bromide which has precipitated is filtered off, and the filtrate is concentrated in a water-jet vacuum. The residue is taken up in 400 ml of ether and 200 ml of water. The organic phase is separated in a separating funnel from the aqueous phase, washed repeatedly with water, dried over sodium sulphate and concentrated in a water-jet vacuum to leave as residue 1-[(naphtho[1,2-b]thiophen-4-yl)-methyl]-1H-imidazole, m.p. 109°-111°.

reactant | 1H-imidazole | 0.2 mole, 13.6 g | N1C=NC=C1 | C3H4N2
reactant | sodium | 2.3 g | [Na] | Na
reactant | hydrogen | [H][H] | H2
reactant | 4-(bromomethyl)-naphtho[1,2-b]thiophene | 0.1 mole, 27.7 g | BrCC1=CC2=CC=CC=C2C=2SC=CC21 | C13H9BrS
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-[(naphtho[1,2-b]thiophen-4-yl)-methyl]-1H-imidazole | S1C2=C(C=C1)C(=CC1=CC=CC=C12)CN1C=NC=C1 | C16H12N2S
